US06605617B2
4-Amino-5-[(2R, 6S)-2,6-dimethylmorpholin-4yl]-3-(3H-imidazo[4,5-b]pyridin-2-yl)quinolin-2(1H)-one
LiHMDS (3.0 eq) was added to ethyl 3H-imidazo[4,5-b]pyridin-2-ylacetate (1.0 eq) in THF at −78° C. After 20 minutes, a solution of 2-amino-6-[(2R,6S)-2,6-dimethylmorpholin-4-yl]benzonitrile (1.1 eq) in THF was added. The resulting mixture was allowed to warm to room temperature, stirred for 2 hours and then heated to 60° C. overnight. The mixture was cooled to 0° C. and quenched with an aqueous saturated NH4Cl solution. The aqueous phase was extracted with CH2Cl2 (5 times) and the organic extracts were collected, dried (Na2SO4), and concentrated. The crude product was purified by HPLC. LC/MS m/z 391.2 (MH+), Rf 2.35 minutes.

reactant | LiHMDS | 3.0 eq | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl 3H-imidazo[4,5-b]pyridin-2-ylacetate | 1.0 eq | N1=C(NC2=NC=CC=C21)CC(=O)OCC | C10H11N3O2
reactant | 2-amino-6-[(2R,6S)-2,6-dimethylmorpholin-4-yl]benzonitrile | 1.1 eq | NC1=C(C#N)C(=CC=C1)N1C[C@H](O[C@H](C1)C)C | C13H17N3O
solvent | THF | C1CCOC1 | C4H8O
product | 4-Amino-5-[(2R, 6S)-2,6-dimethylmorpholin-4yl]-3-(3H-imidazo[4,5-b]pyridin-2-yl)quinolin-2(1H)-one | NC1=C(C(NC2=CC=CC(=C12)N1C[C@H](O[C@H](C1)C)C)=O)C1=NC=2C(=NC=CC2)N1 | C21H22N6O2
